US04608385
3,4-Diethoxyaniline (1.8 g) and diethylaniline (1.5 g) were dissolved in benzene (20 ml). To the resultant solution was dropwise added isopropyl chloroformate (1.2 g) in 5 minutes under ice-cooling. After being allowed to stand at room temperatue for 3 hours, the reaction mixture was poured into ice-water and extracted with ether. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give crude crystals (2.6 g). Recrystallization from ethanol gave isopropyl N-(3,4-diethoxyphenyl)carbamate (Compound No. 13) (2.3 g) in a yield of 86%. M.P., 100°-100.5° C.

reactant | 3,4-Diethoxyaniline | 1.8 g | C(C)OC=1C=C(N)C=CC1OCC | C10H15NO2
reactant | diethylaniline | 1.5 g | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | isopropyl chloroformate | 1.2 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | isopropyl N-(3,4-diethoxyphenyl)carbamate | 2.3 g, yield of 86% | C(C)OC=1C=C(C=CC1OCC)NC(OC(C)C)=O | C14H21NO4
